US05773388
Synthesis of 1-Chloro-4-(4-chlorophenyl)-1,1-difluoro-3-ethoxymethylene-2,4-butanedione
A mixture of 49.5 g of 1-choro-4-(4-chlorophenyl)-1,1-difluoro-2,4-butanedione, 41.3 g of ethyl orthoformate and 57 g of acetic anhydride was refluxed under heating for 4 days. The solvent was distilled off to obtain 60.4 g of the crude product, which was used for the next reaction directly.

reactant | 1-choro-4-(4-chlorophenyl)-1,1-difluoro-2,4-butanedione | 49.5 g | ClC(C(CC(=O)C1=CC=C(C=C1)Cl)=O)(F)F | C10H6Cl2F2O2
reactant | ethyl orthoformate | 41.3 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 57 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1-Chloro-4-(4-chlorophenyl)-1,1-difluoro-3-ethoxymethylene-2,4-butanedione | 60.4 g | ClC(C(C(C(=O)C1=CC=C(C=C1)Cl)=COCC)=O)(F)F | C13H10Cl2F2O3
